US07214673B2
11H-12-thia-6,11-diaza-dibenzo[a,f]azulen-5-ylamine hydrochloride
By using a method similar to the method of Example 532, combine 2-(2-nitro-phenylamino)-benzo[b]thiophene-3-carbonitrile (5.0 g, 17.0 mmol) and Tin(II) chloride (9.65 g, 51.0 mmol) in a mixed solvent of EtOH (50 mL) and 5.0 N HCl (50 mL), heat the suspension to reflux for 3 hours, cool to RT. The title compound 4.65 g (yield 91%) is obtained as a yellow solid by suction filtration. Mass spectrum: ACPI (m/e): 266.0 ((M+1-HCl); 1H NMR (300 MHz, DMSO-d6) ppm: 11.7 (br, 1H), 10.00 (br, 1H), 9.10 (br, 2H), 7.90–7.85 (m, 1H), 7.72–7.65 (m, 1H), 7.48–7.38 (m, 1H), 7.35–7.28 (m, 1H), 7.22–6.98 (m, 4H).

reactant | 2-(2-nitro-phenylamino)-benzo[b]thiophene-3-carbonitrile | 17.0 mmol, 5.0 g | [N+](=O)([O-])C1=C(C=CC=C1)NC1=C(C2=C(S1)C=CC=C2)C#N | C15H9N3O2S
reactant | Tin(II) chloride | 51.0 mmol, 9.65 g | [Sn](Cl)Cl
reactant | HCl | 5.0 N, 50 mL | Cl | ClH
solvent | EtOH | 50 mL | CCO | C2H6O
product | 11H-12-thia-6,11-diaza-dibenzo[a,f]azulen-5-ylamine hydrochloride | 4.65 g, yield 91% | Cl.C1=CC=CC2=C1SC=1NC3=C(N=C(C21)N)C=CC=C3 | InChI=1S/C15H11N3S.ClH/c16-14-13-9-5-1-4-8-12(9)19-15(13)18-11-7-3-2-6-10(11)17-14;/h1-8,18H,(H2,16,17);1H
